US07795247B2
Step 7: 14-cyclohexyl-6-(N,N-dimethylglycyl)-3-fluoro-5,6,7,8-tetrahydroindolo[2,1-a][2.5]benzodiazocine-11-carboxylic acid
To a solution of methyl 14-cyclohexyl-6-(N,N-dimethylglycyl)-3-fluoro-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate from (Step 6) in DCM (0.15 M) was added dropwise to a solution of BBr3 in DCM (1 M, 5 eq.). The solution was stirred at RT for 1 h. Some drops of saturated aqueous NaHCO3 were added before volatiles were removed in vacuo. The crude was then purified by automated RP-MS-HPLC (stationary phase: column Waters XTERRA prep. C18, 5 μm, 19×100 mm. Mobile phase: MeCN/H2O buffered with 0.1% TFA). Fractions containing the pure compound were combined and freeze dried to afford the title compound as a white powder (28%).

reactant | methyl 14-cyclohexyl-6-(N,N-dimethylglycyl)-3-fluoro-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)C(CN(C)C)=O)C=C(C=C1)F)C(=O)OC | C29H34FN3O3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 0.15 M | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 M, 5 eq. | C(Cl)Cl | CH2Cl2
product | 14-cyclohexyl-6-(N,N-dimethylglycyl)-3-fluoro-5,6,7,8-tetrahydroindolo[2,1-a][2.5]benzodiazocine-11-carboxylic acid | 28% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)C(CN(C)C)=O)C=C(C=C1)F)C(=O)O | C28H32FN3O3
